US06900216B2
Oxalyl chloride (25 g) was added dropwise at 0° C. under nitrogen to a stirred solution of pent-4-enoic acid (19 ml) in dichloromethane (400 ml), then the mixture was stirred at 0° C. for 45 minutes and at ambient temperature for 45 hours. The resulting solution of pent-4-enoyl chloride was added dropwise at 0-5° C. over 1.25 hours to a stirred aqueous solution of N,O-dimethylhydroxylamine prepared by addition of potassium carbonate (46.6 g) in portions at 0-5° C. over 30 minutes to a stirred solution of N,O-dimethylhydroxylamine hydrochloride (19.2 g) in water (200 ml). When the addition of the acid chloride solution was complete, the mixture was stirred at 0° C. for 30 minutes and at ambient temperature for 5 hours, then it was allowed to stand at ambient temperature for 65 hours. The organic phase was separated, washed with water (200 ml) and saturated aqueous sodium chloride solution (200 ml) and dried (MgSO4), then the solvent was removed in vacuo to leave N-methoxy-N-methylpent-4-enamide (30.7 g) as a colourless oil which was used without further purification.

reactant | Oxalyl chloride | 25 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pent-4-enoic acid | 19 ml | C(CCC=C)(=O)O | C5H8O2
reactant | pent-4-enoyl chloride | C(CCC=C)(=O)Cl | C5H7ClO
reactant | N,O-dimethylhydroxylamine | CNOC | C2H7NO
reactant | potassium carbonate | 46.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,O-dimethylhydroxylamine hydrochloride | 19.2 g | Cl.CNOC
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | N-methoxy-N-methylpent-4-enamide | 30.7 g | CON(C(CCC=C)=O)C | C7H13NO2
